US07754759B2
To a solution of 3-(4-benzenesulfonyl-2-bromo-phenyl)-propionic acid methyl ester (6.73 g, 17.6 mmol) in DCM (100 mL) was added diisobutyl aluminum hydride (1.0M in toluene, 17.6 mL) at −78° C. under Argon. The reaction was maintained at −78° C. for 90 minutes, and MeOH (7 mL ca.) was then added at −78° C. The mixture was allowed to warm to room temperature. HCl (2M) was added and the mixture was extracted twice with DCM. The combined organic extracts were washed with water, dried over Na2SO4, filtered and evaporated in vacuo. The residue was purified via flash chromatography (hexane/EtOAc, 8/2) affording 3-(4-benzenesulfonyl-2-bromo-phenyl)-propionaldehyde (4.57 g, 74% yield).

reactant | 3-(4-benzenesulfonyl-2-bromo-phenyl)-propionic acid methyl ester | 17.6 mmol, 6.73 g | COC(CCC1=C(C=C(C=C1)S(=O)(=O)C1=CC=CC=C1)Br)=O | C16H15BrO4S
reactant | diisobutyl aluminum hydride | 1.0M, 17.6 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | MeOH | 7 mL | CO | CH4O
reactant | HCl | 2M | Cl | ClH
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-benzenesulfonyl-2-bromo-phenyl)-propionaldehyde | 4.57 g, 74% yield | C1(=CC=CC=C1)S(=O)(=O)C1=CC(=C(C=C1)CCC=O)Br | C15H13BrO3S
